US07348438B2
2-(5,6-Dichloro-1-methyl-1H-benzoimidazol-2-yl)-1-ethylsulfanyl-propan-2-ol
To 1-chloro-2-(5,6-dichloro-1-methyl-1H-benzoimidazol-2-yl)-propan-2-ol (141 mg) in MeOH (4 mL) at room temperature was added a solution of ethanethiol (34 mg) and sodium methoxide (0.132 mls of 25 wt % in MeOH). The resulting mixture was stirred at room temperature overnight. The reaction mixture was then concentrated. The crude product was purified by flash chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a yellow crystalline solid.

reactant | 1-chloro-2-(5,6-dichloro-1-methyl-1H-benzoimidazol-2-yl)-propan-2-ol | 141 mg | ClCC(C)(O)C1=NC2=C(N1C)C=C(C(=C2)Cl)Cl | C11H11Cl3N2O
reactant | ethanethiol | 34 mg | C(C)S | C2H6S
reactant | sodium methoxide | 0.132 mls | C[O-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
product | 2-(5,6-Dichloro-1-methyl-1H-benzoimidazol-2-yl)-1-ethylsulfanyl-propan-2-ol | ClC1=CC2=C(N(C(=N2)C(CSCC)(C)O)C)C=C1Cl | C13H16Cl2N2OS
